US06200995B1
38.1 Preparation of 5-(3-nitrophenoxy)-3-chloropyridine
The title compound was prepared using methods described in U.S. Pat. No. 3,576,616. Briefly, to a 16.5M solution of KOH (2.2 g, 39.6 mmol) in water was added 3-nitrophenol (5 g, 36 mmol) followed by N-methylpyrrolidinone (11 mL) and toluene (3.6 mL). The resulting mixture was heated to 110° C. and water was removed azeotropically using a Dean-Stark trap. Excess toluene was removed and collected in the trap followed by the addition of N-methylpyrrolidinone (18 mL) and 3,5-dichloropyridine (10.66 g, 72 mmol, Aldrich) and the mixture was stirred for 5 hr at 160° C. The temperature was then increased to 200° C. and the mixture was stirred for an additional 15 hr. The crude reaction mixture was cooled, water (100 mL) was added followed by EtOAc (100 mL). The mixture was filtered through a pad of Celite®, the phases were separated, and the aqueous phase was extracted 3× with EtOAc (100 mL). The organic phases were combined and washed twice with water (100 mL), once with brine (100 mL), dried over Na2SO4, and concentrated under vacuum. The crude solid was purified by chromatography (10-25% EtOAc in hexanes as eluant) to provide 3.8 g (42%) of product as an orange solid.

reactant | KOH | 39.6 mmol, 2.2 g | [OH-].[K+]
reactant | 3-nitrophenol | 36 mmol, 5 g | [N+](=O)([O-])C=1C=C(C=CC1)O | C6H5NO3
reactant | 3,5-dichloropyridine | 72 mmol, 10.66 g | ClC=1C=NC=C(C1)Cl | C5H3Cl2N
solvent | water | O | H2O
solvent | water | 100 mL | O | H2O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | N-methylpyrrolidinone | 18 mL | CN1C(CCC1)=O | C5H9NO
solvent | toluene | 3.6 mL | C1(=CC=CC=C1)C | C7H8
solvent | N-methylpyrrolidinone | 11 mL | CN1C(CCC1)=O | C5H9NO
product | 5-(3-nitrophenoxy)-3-chloropyridine | [N+](=O)([O-])C=1C=C(OC=2C=C(C=NC2)Cl)C=CC1 | C11H7ClN2O3
